US07638650B2
To a mixture of 1,3-diaminopropane (3.5 g) and methanol (4 mL) was added HFIB in several portions over a period of about 0.5 h until a gentle reflux of HFIB was observed which did not dissipate. A dry-ice condenser was used to obtain the gentle reflux of HFIB at 20° C. for 15 h. The mixture was poured into water (100 mL) and the bottom layer washed with water to provide 1,3-di-(2-trifluoromethyl-3,3,3-trifluoropropylamino)propane (13 g): MS (m/e) 402 (M+, 0.5%), 251 (12%), 221 (82%), 208 (23%),194 (100%); 1H NMR (CDCl3): 1.66 (quintet, J=6.5 Hz, 2H), 2.72 (t, J=6.5 Hz, 4H), 3.08 (m, 6H) ppm.

reactant | 1,3-diaminopropane | 3.5 g | NCCCN | C3H10N2
reactant | methanol | 4 mL | CO | CH4O
reactant | HFIB | C=C(C(F)(F)F)C(F)(F)F | C4H2F6
solvent | water | 100 mL | O | H2O
product | 1,3-di-(2-trifluoromethyl-3,3,3-trifluoropropylamino)propane | 13 g | FC(C(CNCCCNCC(C(F)(F)F)C(F)(F)F)C(F)(F)F)(F)F | C11H14F12N2
